US04987057
Synthesis of 2,6-Bis(p-N,N-diethylaminobenzylidene)-4-methyl-4-azacyclohexanone (K-2)
Two grams (17.7 mmoles) of N-methyl-4-piperidone and 6.26 g (35.4 mmoles) of p-N,N-diethylaminobenzaldehyde were introduced into a 100 ml eggplant type flask, to which was added a solution of 0.5 g of sodium hydroxide in 50 ml methanol. The contents of the flask equipped with a reflux condenser were heated under reflux for about one hour with stirring by means of a magnetic stirrer. After allowing the reaction mixture to cool, the deposited organge-colored crystalline product was collected by filtration and thoroughly washed with methanol. Then, it was purified by recrystallization from benzene/chloroform.

reactant | N-methyl-4-piperidone | 17.7 mmoles, Two grams | CN1CCC(CC1)=O | C6H11NO
reactant | p-N,N-diethylaminobenzaldehyde | 35.4 mmoles, 6.26 g | C(C)N(CC)C1=CC=C(C=O)C=C1 | C11H15NO
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2,6-Bis(p-N,N-diethylaminobenzylidene)-4-methyl-4-azacyclohexanone | C(C)N(CC)C1=CC=C(C=C2C(C(CN(C2)C)=CC2=CC=C(C=C2)N(CC)CC)=O)C=C1 | C28H37N3O
